* Z:\mnt\spice-netlists\LTC3765_LTC3766_DC2199A-A_.asc
L1 N005 N001 168µ
L2 N006 N002 42µ
L3 N002 OUT 3.3µ
C1 OUT 0 150µ x4
C2 OUT 0 22µ
M§Q1 N005 N009 N012 N012 BSC190N15NS3
C3 N026 N025 1µ
L4 N030 N025 592µ
L5 N029 N024 925µ
C4 N024 N023 .1µ
C5 N023 N029 220p
C6 N028 0 5n
C7 N022 0 1µ
M§Q2 N013 N018 N022 N022 2N7002
C8 N005 N011 0.11µ
M§Q3 N006 N010 0 0 BSC028N06LS3
M§Q4 N002 N007 0 0 BSC028N06LS3
V1 IN 0 48
M§Q5 N011 N016 N017 N017 IRF9640
C9 N040 0 7n
R1 OUT N035 11.5K
R2 N035 0 604
C10 N036 0 4.7n
C11 N002 0 470p
D1 IN N013 ZLLS1000
C12 N021 N016 .1µ
D2 N016 0 ZLLS1000
D4 N002 N004 ES1D
C13 N004 0 2.2n
R3 OUT N004 8.2K
C14 N020 0 4.7µ
C15 OUT N035 3.3n
XU1 0 N009 N022 N021 N017 N032 N012 0 0 N033 N031 N027 N028 N018 N023 N029 LTC3765
XU2 N007 N010 0 0 0 N035 N036 N019 N040 N039 NC_01 OUT OUT 0 N034 0 N020 N015 N037 N038 N020 OUT N008 OUT N030 N026 0 N020 LTC3766
R8 IN N027 102K
R9 N027 0 3.74K
R10 N031 0 14.3K
R11 N032 0 12.7K
R12 N033 0 26.7K
R13 IN N018 100K
R14 N012 0 5m
R15 N016 0 10K
R16 N017 0 1.2
R17 N014 0 1.2K
R19 N002 N008 215
R21 N019 0 133K
R22 N034 0 46.4K
R23 N037 0 17.4K
R24 N038 0 28.7K
R25 N039 0 118K
C16 N017 0 15n
R26 OUT N019 681K
S1 0 OUT N003 0 LOAD
V2 N003 0 PULSE(0 1 2m 1u 1u .5m 1m)
C17 N006 0 1.5n
C18 N005 0 150p
L6 N001 IN 0.22µ
L7 0 N014 2.2m
R4 N015 0 4.22
D3 N014 N015 PMEG6010AED
C19 N015 0 3.3n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
K1 L1 L2 1
K2 L4 L5 1
* 36V to 60Vin
* 12Vout @ 10A
* LTC3765 - Active Clamp Forward Controller and Gate Driver\nLTC3766 - High Efficiency, Secondary-Side Synchronous Forward Controller\nActive Clamp Forward Converter with Direct Flux Limit\nInput: 36V to 60V     Output: 12V @ 30A     Fsw = 200kHz
* Notes:\n  1. Not included in Sim: Input Filter, Transformer Leakage inductance, \n      LTC3765 Freq Foldback circuit, RUN, ISMAG & DELAY pin filters, \n      Sense resistor inductance and compensating filters, Y-cap.\n  2. SS caps changed from 33nF to 5nF & 7nF to reduce sim time.\n  3. D3, Q1, Q3, Q4, & Q5 models replaced with nearest equivalent.\n  4. C8 = 0.22uF rated, 0.11uF at 120V\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.options GminSteps=0
.model LOAD SW(Ron=.41 Roff=1Meg Vt=.5 Vh=-.4)
K3 L6 L7 1
.lib LTC3765.sub
.lib LTC3766.sub
.backanno
.end
